US04154947
Preparation of 1-(2,6-Dichlorobenzylideneamino)-3-(4-pyridylmethyl)guanidine
A solution of 5.85 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydriodide and 3.24 g. of 4-(aminomethyl)pyridine in 25 ml. of absolute ethanol is heated under reflux for 24 hours and then diluted with 75 ml. of water, causing the separation of an oil. On standing, the oil crystallizes. Filtration and recrystallization from aqueous ethanol gives the desired product as colorless crystals, m.p. 159°-161° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydriodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | 4-(aminomethyl)pyridine | NCC1=CC=NC=C1 | C6H8N2
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2,6-Dichlorobenzylideneamino)-3-(4-pyridylmethyl)guanidine | ClC1=C(C=NNC(=N)NCC2=CC=NC=C2)C(=CC=C1)Cl | C14H13Cl2N5
